US07214673B2
(S)-1,4-Dibenzyl-2-(2-pyridin-2-yl-ethyl)-piperazine
Combine 9-borabicyclo[3.3.1]nonane (62.6 mL, 31.3 mmol, 0.5 M in THF) and (S)-1,4-dibenzyl-2-vinyl-piperazine. (2.29 g, 7.83 mmol) and stir at ambient temperature. After 18 hours, add triphenylphosphine (657 mg, 2.50 mmol), tetrakis(triphenylphosphine) palladium(0) (362 mg, 0.31 mmol), and 2-bromopyridine (1.12 mL, 11.7 mmol). Add 3M NaOH (6.4 mL, 19.3 mmol) slowly, and gas evolution will occur. Heat at reflux. After 24 hours, cool to ambient temperature, add 5N HCl (50 mL), and stir 1 hour. Dilute with 0.2 N HCl, extract with diethyl ether, and discard the diethyl ether extracts. Add 5N NaOH to the acidic aqueous solution until pH is 12–14. Extract with diethyl ether. Wash the diethyl ether extracts with water and brine, dry over sodium sulfate, filter and concentrate under reduced pressure. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (0.5%–3%) as the eluent to give the title compound (2.3 g, 79%): mp 83–86° C.; mass spectrum (ion spray): m/z=372 (M+1). Analysis calculated for C25H29N3: C, 80.82; H, 7.87; N, 11.31. Found: C, 80.56; H, 7.60; N, 11.30.

reactant | 9-borabicyclo[3.3.1]nonane | 31.3 mmol, 0.5 M, 62.6 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | (S)-1,4-dibenzyl-2-vinyl-piperazine | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
reactant | triphenylphosphine | 2.50 mmol, 657 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromopyridine | 11.7 mmol, 1.12 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | NaOH | 19.3 mmol, 3M, 6.4 mL | [OH-].[Na+]
solvent | HCl | 0.2 N | Cl | ClH
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.31 mmol, 362 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | HCl | 5N, 50 mL | Cl | ClH
product | (S)-1,4-Dibenzyl-2-(2-pyridin-2-yl-ethyl)-piperazine | 2.3 g, 79% | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=NC=CC=C1 | C25H29N3
